US09290485B2
a) Methyl 1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate
A suspension of methyl 1,2,3,4-tetrahydroquinoline-7-carboxylate (380 mg, 1.987 mmol), Cs2CO3 (1295 mg, 3.97 mmol) and iodomethane (0.118 ml, 1.888 mmol) was stirred for 16 hours at 20° C. After that time, more iodomethane (0.118 ml, 1.888 mmol) was added and stirring was continued for 8 hours at 60° C. The reaction mixture was allowed to cool to room temperature, filtered and concentrated under reduced pressure. The crude product was purified by preparative HPLC (Macherey-Nagel Nucleosil 100-10 C18, Flow 40 mL/min, ACN: 2 min at 5%, then to 100% within 17.5 min, RT 15.52 min) to yield the title compound. HPLC (Method H) Rt=3.005 min; MS (Method A) [M+H]+=206.1

reactant | methyl 1,2,3,4-tetrahydroquinoline-7-carboxylate | 1.987 mmol, 380 mg | N1CCCC2=CC=C(C=C12)C(=O)OC | C11H13NO2
reactant | Cs2CO3 | 3.97 mmol, 1295 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 1.888 mmol, 0.118 ml | IC | CH3I
reactant | iodomethane | 1.888 mmol, 0.118 ml | IC | CH3I
product | Methyl 1-methyl-1,2,3,4-tetrahydroquinoline-7-carboxylate | CN1CCCC2=CC=C(C=C12)C(=O)OC | C12H15NO2
